parameters sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_noshield_o1__slope=0.0
subckt sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_noshield_o1 (c0 c1 b)
parameters mult=1.0 lvpp=3.6 wm1=0.14 wm2=0.14 wli=0.17 ctot_a=0.988e-15 * lvpp * lvpp * cvpp_cor + 1.04204 / sqrt(mult / 0.35036) * mc_mm_switch * 0 * 0.988e-15 * lvpp * lvpp * cvpp_cor rat_m2=0.4325 rat_m1=0.3175 rat_li=0.25 cap_m2=rat_m2 * ctot_a cap_m1=rat_m1 * ctot_a cap_li=rat_li * ctot_a caps_li=1.27e-17 nvia=11.0 ncon=10.0 nf=6.0
rm21 (c0 a1) resistor r=2 * rm2 * lvpp / wm2 * (1 / 3) * (1 / nf)
ccmvpp_2 (a1 c1) capacitor c=cap_m2
rvia1 (c0 d0) resistor r=rcvia / nvia
rvia2 (c1 d1) resistor r=rcvia / nvia
rm11 (d0 b1) resistor r=2 * rm1 * lvpp / wm1 * (1 / 3) * (1 / nf)
cm1 (b1 d1) capacitor c=cap_m1
rcon1 (d0 e0) resistor r=rcl1 / ncon
rcon2 (d1 e1) resistor r=rcl1 / ncon
rli1 (e0 f1) resistor r=2 * rl1 * lvpp / wli * (1 / 3) * (1 / nf)
cli (f1 e1) capacitor c=cap_li
csli1 (e0 b) capacitor c=caps_li * nf * lvpp
csli2 (e1 b) capacitor c=caps_li * nf * lvpp
ends // sky130_fd_pr__cap_vpp_04p4x04p6_l1m1m2_noshield_o1
